### PR TITLE
Restriction categories

### PR DESCRIPTION
**Pull request by TOTBWF**
This PR defines [restriction categories](https://ncatlab.org/nlab/show/restriction+category), and proves that every allegory has a restriction structure on it's category of partial maps.

### CODE REVIEW

**Comment by plt-amy** [comment]
> it's category of partial maps

:pensive:

**Comment by TOTBWF** [comment]
> > it's category of partial maps
> 
> 😔

I did a grammar check, yet I missed the PR description 🙃

File: src/Cat/Allegory/Morphism.lagda.md [hunk 1]
```diff
@@ -355,6 +358,16 @@ coreflexive→symmetric {f = f} f-corefl =
   id ∘ f † ∘ id =⟨ idl _ ∙ idr _ ⟩
   f † ≤∎
 ```
+
+As coreflexive morphisms are both transitive and cotransitive, they
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:362]: Can you make this
```
transitive ($f \le ff^o$)
```
same for cotransitive, and mention antisymmetry?

File: src/Cat/Allegory/Morphism.lagda.md [hunk 2]
```diff
@@ -376,7 +389,101 @@ coreflexive-∘-∩ {f = f} {g = g} f-corefl g-corefl =
...
+# Functional Morphisms
+
+A morphism is **functional** when $f \circ f^o \le id$. Intuitively,
+these are the relations $R \mono A \times B$ where every element $x$ is
+related to at most one $y$.
+
+```agda
+is-functional : Hom x y → Type _
+is-functional f = f ∘ f † ≤ id
+```
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:414]: Can you add some prose explaining how this condition works out in Rel?

File: src/Cat/Allegory/Morphism.lagda.md [hunk 3]
```diff
@@ -376,7 +389,101 @@ coreflexive-∘-∩ {f = f} {g = g} f-corefl g-corefl =
...
+Functional morphisms are closed under composition and intersection.
+
+```agda
+functional-∘ : is-functional f → is-functional g → is-functional (f ∘ g)
+functional-∘ {f = f} {g = g} f-func g-func =
+  (f ∘ g) ∘ (f ∘ g) † ≤⟨ †-cancel-inner g-func ⟩
+  f ∘ f †             ≤⟨ f-func ⟩
+  id                  ≤∎
+
+functional-∩ : is-functional f → is-functional g → is-functional (f ∩ g)
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:440]: Is there space betweev the cap, the colon, and the i?

File: src/Cat/Allegory/Morphism.lagda.md [hunk 4]
```diff
@@ -376,7 +389,101 @@ coreflexive-∘-∩ {f = f} {g = g} f-corefl g-corefl =
...
+
+# Entire Morphisms
+
+A morphism is **entire** when $id \le f^o \circ f$. These are the
+relations where each $x$ must be related to at least one $y$.
+
+```agda
+is-entire : Hom x y → Type _
+is-entire f = id ≤ f † ∘ f
+```
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:458]: Same thing about explaining in Rel here

File: src/Cat/Allegory/Morphism.lagda.md [hunk 5]
```diff
@@ -465,6 +601,111 @@ domain-id : domain (id {x}) ≡ id
...
+
+We also note that domains are always functional.
+
+```agda
+domain-functional : (f : Hom x y) → is-functional (domain f)
+domain-functional f = coreflexive→functional (domain-coreflexive f)
+```
+
+The domain of an entire morphism is identity.
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:699]: the identity

File: src/Cat/Restriction/Base.lagda.md [hunk 6]
```diff
@@ -0,0 +1,78 @@
...
+```agda
+module Cat.Restriction.Base where
+```
+
+
+# Restriction Categories
+
+Much of computer science involves the study of partial functions.
+Unfortunately, partial functions are somewhat tedious to work with, as
+we constantly find ourselves incurring proof obligations, which
```
Comment (plt-amy) [inline src/Cat/Restriction/Base.lagda.md:17]: what obligations?

File: src/Cat/Restriction/Base.lagda.md [hunk 7]
```diff
@@ -0,0 +1,78 @@
...
+immediately grinds any formalization effort to a halt. Furthermore,
+we are often interested in *computable* partial functions; this means that
+we can not identify partial functions $A \to B$ with total functions
+$A \to \rm{Maybe}(B)$. **Restriction categories** aim to ease this burden
```
Comment (plt-amy) [inline src/Cat/Restriction/Base.lagda.md:21]: Can you add an explanation for why? Could be a footnote.

File: src/Cat/Restriction/Base.lagda.md [hunk 8]
```diff
@@ -0,0 +1,78 @@
...
+by providing an algebraic account of categories of partial maps, which
+lets us transform massive termination obligations into slightly less
+annoying algebraic manipulations.
+
+We begin our path to generalization by studying the category of sets
+and partial functions. The key insight is that every partial function
+$f : A \rightharpoonup B$ is defined on some domain $X \subseteq A$;
+this yields a partial function $f \downarrow : A \rightharpoonup A$
+that maps $x$ to itself if $f(x)$ is defined, and diverges otherwise.
```
Comment (plt-amy) [inline src/Cat/Restriction/Base.lagda.md:30]: Can you make this "maps x to itself iff f(x) is defined"? The LEM wording doesn't really fit imo

File: src/Cat/Restriction/Base.lagda.md [hunk 9]
```diff
@@ -0,0 +1,78 @@
...
+  : Type (o ⊔ ℓ) where
+  no-eta-equality
+  open Cat.Reasoning C
+  field
+    _↓ : ∀ {x y} → Hom x y → Hom x x
+
+  infix 50 _↓
+```
+
+We require that $(-)\downarrow$ satisfies 4 axioms:
```
Comment (plt-amy) [inline src/Cat/Restriction/Base.lagda.md:50]: IMO merge this list with the one below, and put each axiom-code-block under the corresponding list item

File: src/Cat/Restriction/Functor.lagda.md [hunk 10]
```diff
@@ -0,0 +1,146 @@
...
+
+<!--
+```agda
+open Functor
+```
+-->
+
+# Restriction Functors
+
+A functor $F : \cC \to \cD$ is a **restriction functor** if
```
Comment (plt-amy) [inline src/Cat/Restriction/Functor.lagda.md:22]: a functor $...$ between _restriction categories_ - with a link!

File: src/Cat/Restriction/Instances/Allegory.lagda.md [hunk 11]
```diff
@@ -0,0 +1,70 @@
...
+module Cat.Restriction.Instances.Allegory where
+```
+
+# Restriction Categories from Allegories
+
+Let $\cA$ be an [allegory], considered as a sort of generalized category
+of "sets and relations". Much like we can recover a category of "sets and
+functions" via the associated [category of maps], we can recover a category
+of "sets and partial functions" by only restricting to [functional]
+morphisms instead of functional _and_ [entire] relations.
```
Comment (plt-amy) [inline src/Cat/Restriction/Instances/Allegory.lagda.md:22]: choose either morphism or relation

File: src/Cat/Restriction/Instances/Allegory.lagda.md [hunk 12]
```diff
@@ -0,0 +1,70 @@
...
+  Partial-maps-subcat .Wide-subcat.P-id =
+    functional-id
+  Partial-maps-subcat .Wide-subcat.P-∘ f-partial g-partial =
+    functional-∘ f-partial g-partial
+
+  Partial-maps : Precategory o (ℓ ⊔ ℓ')
+  Partial-maps = Wide Partial-maps-subcat
+```
+
+This category can be equipped with a restriction structure by taking
```
Comment (plt-amy) [inline src/Cat/Restriction/Instances/Allegory.lagda.md:51]: "a restriction structure, defining $f\downarrow$ to be the [domain] of $f$"

File: src/Cat/Restriction/Instances/Allegory.lagda.md [hunk 13]
```diff
@@ -0,0 +1,70 @@
...
+the [domain] of the partial maps. Note that the first 3 axioms don't
+actually require functionality; it's only the reverse direction of
```
Comment (plt-amy) [inline src/Cat/Restriction/Instances/Allegory.lagda.md:53]: ~~functionality~~ the relation to be functional

Comment (plt-amy) [reply src/Cat/Restriction/Instances/Allegory.lagda.md:53]: "it's only relevant in the converse direction of the 4th axiom"

File: src/Cat/Restriction/Reasoning.lagda.md [hunk 14]
```diff
@@ -0,0 +1,524 @@
...
+restriction-idem-comm f-dom g-dom =
+  ap₂ _∘_ (sym f-dom) (sym g-dom)
+  ·· ↓-comm _ _
+  ·· ap₂ _∘_ g-dom f-dom
+```
+
+## Restricted Monics
+
+A morphism $f : X \to Y$ is a **restricted monic** if for all
+$g, h : A \to X$, $f \circ g = f \circ h$ implies that
```
Comment (plt-amy) [inline src/Cat/Restriction/Reasoning.lagda.md:242]: I would drop the \circs

File: src/Cat/Restriction/Reasoning.lagda.md [hunk 15]
```diff
@@ -0,0 +1,524 @@
...
+restricted-monic-cancell {f = f} {g = g} fg-rmonic f-total h1 h2 p =
+  g ↓ ∘ h1           ≡⟨ ap (_∘ h1) (sym (total-smashl f-total)) ⟩
+  (f ∘ g) ↓ ∘ h1     ≡⟨ fg-rmonic h1 h2 (sym (assoc _ _ _) ·· ap (f ∘_) p ·· assoc _ _ _) ⟩
+  (f ∘ g) ↓ ∘ h2     ≡⟨ ap (_∘ h2) (total-smashl f-total) ⟩
+  g ↓ ∘ h2           ∎
+```
+
+## Restricted Retracts
+
+Let $r : X \to Y$ and $s : Y \to X$ be a pair of morphisms. $r$ is a
```
Comment (plt-amy) [inline src/Cat/Restriction/Reasoning.lagda.md:310]: The map $r$ — don't start sentences with maths

File: src/Cat/Restriction/Reasoning.lagda.md [hunk 16]
```diff
@@ -0,0 +1,524 @@
...
+**restricted retract** of $s$ when $r \circ s = s \downarrow$.
```
Comment (plt-amy) [inline src/Cat/Restriction/Reasoning.lagda.md:311]: ditto \circ

File: src/Cat/Restriction/Reasoning.lagda.md [hunk 17]
```diff
@@ -0,0 +1,524 @@
...
+  → has-restricted-retract f
+  → is-restricted-monic f
+has-restricted-retract→restricted-monic {f = f} f-sect g1 g2 p =
+  f ↓ ∘ g1 ≡⟨ pushl (sym $ f-sect .is-restricted-retract) ⟩
+  f-sect .↓-retract ∘ f ∘ g1 ≡⟨ ap (f-sect .↓-retract ∘_) p ⟩
+  f-sect .↓-retract ∘ f ∘ g2 ≡⟨ pulll (f-sect .is-restricted-retract) ⟩
+  f ↓ ∘ g2 ∎
+```
+
+If $f$ and $g$ have restricted retracts, then so does $f \circ g$.
```
Comment (plt-amy) [inline src/Cat/Restriction/Reasoning.lagda.md:353]: ditto \circ

File: src/Cat/Restriction/Reasoning.lagda.md [hunk 18]
```diff
@@ -0,0 +1,524 @@
...
+restricted-retract-∘ {f = f} {g = g} f-sect g-sect .is-restricted-retract =
+  (g-sect .↓-retract ∘ f-sect .↓-retract) ∘ f ∘ g ≡⟨ pull-inner (f-sect .is-restricted-retract) ⟩
+  g-sect .↓-retract ∘ f ↓ ∘ g                     ≡⟨ ap (g-sect .↓-retract ∘_) (↓-swap f g) ⟩
+  g-sect .↓-retract ∘ g ∘ (f ∘ g) ↓               ≡⟨ pulll (g-sect .is-restricted-retract) ⟩
+  g ↓ ∘ (f ∘ g) ↓                                 ≡⟨ ↓-cancell f g ⟩
+  (f ∘ g) ↓                                       ∎
+```
+
+
+If $f \circ g$ has a restricted retract and $f$ is total, then $g$ has a restricted
```
Comment (plt-amy) [inline src/Cat/Restriction/Reasoning.lagda.md:371]: ditto \circ

File: src/Cat/Restriction/Reasoning.lagda.md [hunk 19]
```diff
@@ -0,0 +1,524 @@
...
+has-restricted-retract-cancell {f = f} {g = g} fg-sect f-total .is-restricted-retract =
+  (fg-sect .↓-retract ∘ f) ∘ g ≡⟨ sym (assoc _ _ _) ∙ fg-sect .is-restricted-retract ⟩
+  (f ∘ g) ↓                    ≡⟨ total-smashl f-total ⟩
+  g ↓ ∎
+```
+
+## Restricted Isomorphisms
+
+Let $f : X \to Y$ and $g : Y \to X$ be a pair of morphisms. $f$ and $g$
+are **restricted inverses** if $f \circ g = g \downarrow$ and
```
Comment (plt-amy) [inline src/Cat/Restriction/Reasoning.lagda.md:391]: ditto \circ

File: src/Cat/Restriction/Reasoning.lagda.md [hunk 20]
```diff
@@ -0,0 +1,524 @@
...
+restricted-inverses+total→inverses {f = f} {g = g} fg-inv f-total g-total = record
+    { invl = fg-inv .↓-invl ∙ g-total
+    ; invr = fg-inv .↓-invr ∙ f-total
+    }
+```
+
+## Refining Morphisms
+
+Let $\cC$ be a restriction category, and $f, g : \cC(X,Y)$. We say that
+$g$ refines $f$ if $g$ agrees with $f$ when restricted to the domain of
```
Comment (plt-amy) [inline src/Cat/Restriction/Reasoning.lagda.md:482]: **refines**

File: src/index.lagda.md [hunk 21]
```diff
@@ -607,6 +607,30 @@ open import Cat.Allegory.Morphism -- Morphisms in allegories
 open import Cat.Allegory.Reasoning -- Reasoning combinators
 ```
 
+## Restriction Categories
+
+Restriction categories axiomatize categories of partial maps by adding
+an restriction operation $(-)\downarrow : \cC(X,Y) \to \cC(X,X)$ that
```
Comment (plt-amy) [inline src/index.lagda.md:613]: a

**Review by plt-amy — CHANGES_REQUESTED** [review]

File: src/Cat/Allegory/Morphism.lagda.md (hunk 3 above)
Comment (TOTBWF) [reply src/Cat/Allegory/Morphism.lagda.md:445]: I'm not quite sure I follow!

Comment (plt-amy) [reply src/Cat/Allegory/Morphism.lagda.md:445]: Was just my browser being silly, nvm

**Review by plt-amy — APPROVED** [review]
